US04410536
9-[4,4-Bis(4-fluorophenyl)butyl]-1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
2.4 g of 1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole are dissolved in 50 ml of dimethylformamide and 10 ml of hexamethylphosphoric acid triamide 4.5 g of 4,4-bis-(4-fluorophenyl)butyl iodide are added and the mixture is warmed to 80° C. under N2 for 5 hours. The solvent is then evaporated off; the residue is taken up in chloroform, the chloroform mixture is washed with water, dried and evaporated, the residue is chromatographed on Al2O3 with chloroform and the product is recrystallised from isopropanol. Melting point: 158° C.

reactant | 1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | 2.4 g | CC1=CSC=2C1=C1C3=C(NC1=CC2)CCNC3 | C14H14N2S
reactant | hexamethylphosphoric acid triamide | 10 ml, 4.5 g | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | 4,4-bis-(4-fluorophenyl)butyl iodide | FC1=CC=C(C=C1)C(CCCI)C1=CC=C(C=C1)F | C16H15F2I
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 9-[4,4-Bis(4-fluorophenyl)butyl]-1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | FC1=CC=C(C=C1)C(CCCN1CC2=C(NC3=CC=C4C(=C23)C(=CS4)C)CC1)C1=CC=C(C=C1)F | C30H28F2N2S
